US07514448B2
tert-Butyl 4-bromothiophen-2-ylcarbamate
4-Bromothiophene-2-carboxylic acid (1.75 g, 8.5 mmol) was dissolved in 40 mL of t-BuOH. To this solution diphenylphosphoryl azide (2.8 g, 10.2 mmol) and triethylamine (1.4 mL, 10.1 mmol) were added. The reaction mixture was heated to reflux for 5 hours, cooled room temperature, and diluted with EtOAc. The organic layer was washed with 10% citric acid, saturated sodium bicarbonate and brine, and concentrated to an oil, which was purified by column chromatography on silica (0 to 25% EtOAc/hexanes) to give the product, 1.3 g, 4.7 mmol, 55%. 1H NMR 500 MHz (CDCl3) 6.96 (1H, br s), 6.83 (1H, s), 6.43 (1H, s), 1.54 (9H, s).

reactant | 4-Bromothiophene-2-carboxylic acid | 8.5 mmol, 1.75 g | BrC=1C=C(SC1)C(=O)O | C5H3BrO2S
reactant | diphenylphosphoryl azide | 10.2 mmol, 2.8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 10.1 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | t-BuOH | 40 mL | CC(C)(C)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-bromothiophen-2-ylcarbamate | BrC=1C=C(SC1)NC(OC(C)(C)C)=O | C9H12BrNO2S
